US06936612B2
Acetic acid 8-cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl ester (0.80 g, 2.29 mmol), prepared as in Example 27, and 4-(6-Amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (1.17 g, 4.20 mmol) were added to toluene (8 ml), heated to 96° C. for 6 hours. The reaction mixture was allowed to cool, then filtered and the residue washed with toluene. The resulting solid was dried in vacuo then recrystallized from chloroform/diethyl ether to provide 4-[6-(6-acetoxymethyl-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester as a solid (0.213 g, 16.5%). MS (APCI) M++1; Calc'd, 564.2. Found, 564.3.

reactant | Acetic acid 8-cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-6-ylmethyl ester | 2.29 mmol, 0.80 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)C)COC(C)=O)=O | C16H19N3O4S
reactant | 4-(6-Amino-pyridin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 4.20 mmol, 1.17 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)N | C14H22N4O2
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[6-(6-acetoxymethyl-8-cyclopentyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.213 g, 16.5% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)COC(C)=O)=O)C2CCCC2 | C29H37N7O5
